US07291631B2
Using General Procedure B: Reaction of C-(3-methyl-pyridin-2-yl)-methylamine and (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester with NaBH(OAc)3 in CH2Cl2 gave (2-{[(3-Methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridin-3-yl)-carbamic acid tert-butyl ester as a yellow oil.

reactant | C-(3-methyl-pyridin-2-yl)-methylamine | CC=1C(=NC=CC1)CN | C7H10N2
reactant | (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)C=O)=O | C11H14N2O3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-{[(3-Methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)CNCC1=NC=CC=C1C)=O | C18H24N4O2
